US07691866B2
2. Synthesis of 2-(3-tert-Butyl-phenylamino)-quinoxalin-6-ol
The mixture of (3-tert-Butyl-phenyl)-(6-methoxy-quinoxalin-2-yl)-amine and hydrobromic acid (48%) was subjected to the microwave at 140° C. for 6 mins. to yield the desired product. The mixture was neutralized with sodium bicarbonate solution and taken in ethyl acetate. The organic layer was washed with water and brine, concentrated, and purified on silica gel.

reactant | (3-tert-Butyl-phenyl)-(6-methoxy-quinoxalin-2-yl)-amine | C(C)(C)(C)C=1C=C(C=CC1)NC1=NC2=CC=C(C=C2N=C1)OC | C19H21N3O
reactant | hydrobromic acid | Br | BrH
product | 2-(3-tert-Butyl-phenylamino)-quinoxalin-6-ol | C(C)(C)(C)C=1C=C(C=CC1)NC1=NC2=CC=C(C=C2N=C1)O | C18H19N3O
